US08058045B2
To a solution of (1R,5S)-8-methyl-8-azabicyclo[3.2.1]octane-3-carbonitrile (J. Org. Chem., 1977, 3114) (83 mg, 0.55 mmol) in NH3/MeOH (0.5%) (10 mL) was added Raney Ni (ca. 50 mg). The reaction mixture was hydrogenated at atmospheric pressure for 16 hours. After filtration, the solvents were evaporated and the oil was purified by ion exchange on SCX-II acidic resin (2 g) eluting with methanol, then 2M ammonia-methanol. The basic fractions were combined and the solvent was removed in vacuo to give ((1R,5S)-8-methyl-8-azabicyclo[3.2.1]octan-3-yl)methanamine as colourless oil (32 mg, 38%).

reactant | (1R,5S)-8-methyl-8-azabicyclo[3.2.1]octane-3-carbonitrile | 0.55 mmol, 83 mg | CN1[C@H]2CC(C[C@@H]1CC2)C#N | C9H14N2
solvent | NH3 MeOH | 10 mL | N.CO
catalyst | Ni | ca. 50 mg | [Ni] | Ni
product | ((1R,5S)-8-methyl-8-azabicyclo[3.2.1]octan-3-yl)methanamine | 32 mg, 38% | CN1[C@H]2CC(C[C@@H]1CC2)CN | C9H18N2
